* E:\WK\Google Drive - ITBA\ITBA - Me\2020B\Teoria de Circuitos\TP\git\TC-Grupo6\TP1\EJ1\notchG.asc
R1 N001 Vin 1.2k tol=10
R2 Vout N001 1.2k tol=10
R3 N002 0 560
C3 N001 0 15n
C1 N002 Vin 6.8n
C2 Vout N002 6.8n
V1 Vin 0 PULSE(0 1 0 0.0000001m 0.0000001m 2000m) AC 1
;ac dec 10000 100 1meg
.tran 0.5m
.backanno
.end
