* E:\WK\Google Drive - ITBA\ITBA - Me\2020B\Teoria de Circuitos\TP\git\TC-Grupo6\TP3\EJ1\Simulacion\ej1-tl082.asc
C1 V1+ pp 34.965n
C2 N001 V2- 34.965n
R1 V1+ 0 8.8k
R2 V1+ N001 2.2k
R3 V2- Vout 2.2k
R4 Vout V2+ 2.2k
R5 V2+ pp 2.2k
V1 v+ 0 9
V2 0 v- 9
V3 N002 0 SINE() AC 1
XU1 NC_01 NC_02 NC_03 NC_04 NC_05 LM833 LM833 Avol=316.2K GBW=15Meg Slew=5Meg ilimit=25m rail=0 Vos=0 phimargin=60 en=0 enk=0 in=0 ink=0 Rin=175K
XU2 NC_06 NC_07 NC_08 NC_09 NC_10 LM833 LM833 Avol=316.2K GBW=15Meg Slew=5Meg ilimit=25m rail=0 Vos=0 phimargin=60 en=0 enk=0 in=0 ink=0 Rin=175K
XU3 V1+ V2- v+ v- Vout TL082
XU4 V2+ V2- v+ v- N001 TL082
R6 pp N002 10e3
R7 pp 0 1Meg
C3 pp 0 100p
.ac dec 1000 1 10meg
.lib E:\WK\Google Drive - ITBA\ITBA - Me\2020B\Teoria de Circuitos\TP\git\TC-Grupo6\TP3\EJ1\Simulacion\TL082.301
.lib LM833.sub
.backanno
.end
