* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.01 - Teoría de Circuitos\Cursada\Trabajos Prácticos\TC-Grupo6\TP2\Ejercicio3-CircuitoIntegradoresyDerivadores\Simulaciones\Derivador.asc
R1 Att N006 5k27
C1 N006 N012 18.8n
V1 Vcc 0 9
V2 0 Vee 9
V3 N011 0 AC 1
XU1 0 N006 Vcc Vee Att LM833
R2 N012 N011 1k
R3 0 N012 100
R4 clean N004 5k27
C2 N004 N007 18.8n
V6 N007 0 AC 1
R5 buff N003 5k
C3 N008 N005 18.8n
V4 N009 0 AC 100
XU3 0 N003 Vcc Vee buff LM833
XU4 N010 N005 Vcc Vee N005 LM833
R6 clean2 N016 5k
C4 N016 N017 18.8n
V5 N021 0 AC 1
R7 buff2 N015 5k27
C5 N015 N013 18.8n
V7 N019 0 AC 1
XU5 N016 0 Vcc Vee clean2 LM833
XU6 N013 N020 Vcc Vee N013 LM833
XU7 N015 0 Vcc Vee buff2 LM833
R8 N020 N019 1k
R9 0 N020 100
R10 Att2 N014 5k27
C6 N014 N022 18.8n
V8 N018 0 AC 1
R11 N022 N018 1k
R12 0 N022 100
XU8 N014 0 Vcc Vee Att2 LM833
XU9 0 N004 Vcc Vee clean LM833
R16 clean N001 5k27
C7 N001 N002 18.8n
V9 N002 0 AC 1
XU2 0 N001 Vcc Vee clean LM833
R14 N003 N008 100
R13 N017 N021 100
R17 N010 0 10
R18 N010 N009 1k
;tran 25ms startup
.ac dec 10000 0.1 2e6
;tran 10ms
* Texas
* Unkwon
;tran 1ms
.lib Germosub/LM833.lib
.lib Germosub/Opamps_Comparators_ST.lib
.backanno
.end
