* E:\WK\Google Drive - ITBA\ITBA - Me\2020B\Teoria de Circuitos\TP\git\TC-Grupo6\TP4\Ejercicio2-DisenoDeCeldas\4CeldaUniversal\Simulacion\CEKL.asc
XU1 0 N001 VCC -VCC N007 TL084
V1 0 -VCC 15
V2 VCC 0 15
V3 vin 0 0 AC 1
XU2 0 N010 VCC -VCC v01 TL084
XU3 0 N008 VCC -VCC N002 TL084
R1 N007 N001 {mc(1.96k,tolr)}
R2 N008 v01 {mc(1k,tolr)}
R3 N002 N001 {mc(1k,tolr)}
R4 N001 vo {mc(1.9k,tolr)}
R5 vo N010 {mc(1.9k,tolr)}
R6 vo N008 {mc(1k,tolr)}
R7 N007 N010 {mc(1.96k,tolr)}
R8 N010 v01 {mc(1.8kk,tolr)}
C1 N007 N001 {mc(10n,tolc)}
C2 N002 N008 {mc(10n,tolc)}
XU4 0 N003 VCC -VCC N009 TL084
XU5 0 N014 VCC -VCC vo TL084
XU6 0 N011 VCC -VCC N004 TL084
R9 N009 N003 {mc(8.913k,tolr)}
R10 N011 vo {mc(1k,tolr)}
R11 N004 N003 {mc(1k,tolr)}
R12 N003 N013 {mc(9k,tolr)}
R13 N013 N014 {mc(9k,tolr)}
R14 N013 N011 {mc(1k,tolr)}
R15 N009 N014 {mc(8.913kk,tolr)}
R16 N014 vo {mc(9k,tolr)}
C3 N009 N003 {mc(10n,tolc)}
C4 N004 N011 {mc(10n,tolc)}
XU7 0 N005 VCC -VCC N012 TL084
XU8 0 N016 VCC -VCC vout TL084
XU9 0 N015 VCC -VCC N006 TL084
R17 N012 N005 {mc(1768,tolr)}
R18 N015 vout {mc(1k,tolr)}
R19 N006 N005 {mc(1k,tolr)}
R20 N005 v01 {mc(1863,tolr)}
R21 v01 N016 {mc(1863k,tolr)}
R22 v01 N015 {mc(1k,tolr)}
R23 N012 N016 {mc(1768k,tolr)}
R24 N016 vout {mc(1981k,tolr)}
C5 N012 N005 {mc(10n,tolc)}
C6 N006 N015 {mc(10n,tolc)}
XU10 vin N013 VCC -VCC N013 TL084
.lib TL084.301
.param tolr=0.05
.param tolc=0.2
.step param run 1 100 1
.ac dec 100 3000 100000
.backanno
.end
