* C:\Users\Paulo\Documents\GitHub\TC\TP3\Ejercicio4-EcualizadorDeFase\Simulacion\Ej4.asc
R1 N001 Vi 10k
R2 Vo N002 10k
R3 N004 Vi 500k
R4 Vo N004 500k
C1 N003 N004 15n
C2 N002 N001 150n
XU1 0 N004 +Vc -Vc Vo TL082
V1 Vi 0 AC 1 0
V2 +Vc 0 9
V3 0 -Vc 9
R5 N003 N001 25k
R6 N002 N003 25k
.ac dec 100 1 1000k
.lib PAULOsub\TL082.lib
.backanno
.end
