* E:\WK\Google Drive - ITBA\ITBA - Me\2020B\Teoria de Circuitos\TP\git\TC-Grupo6\TP3\EJ1\Simulacion\ej1-tl082.asc
C1 V1+ Vin {mc(C,tolc)}
C2 N001 V2- {mc(C,tolc)}
R1 V1+ 0 {mc(4*R,tolr)}
R2 V1+ N001 {mc(R,tolr)}
R3 V2- Vout {mc(R,tolr)}
R4 Vout V2+ {mc(R,tolr)}
R5 V2+ Vin {mc(R,tolr)}
V1 v+ 0 9
V2 0 v- 9
V3 Vin 0 PULSE(0 0.5 0 .00001 .00001 1) AC 1
XU1 NC_01 NC_02 NC_03 NC_04 NC_05 LM833 LM833 Avol=316.2K GBW=15Meg Slew=5Meg ilimit=25m rail=0 Vos=0 phimargin=60 en=0 enk=0 in=0 ink=0 Rin=175K
XU2 NC_06 NC_07 NC_08 NC_09 NC_10 LM833 LM833 Avol=316.2K GBW=15Meg Slew=5Meg ilimit=25m rail=0 Vos=0 phimargin=60 en=0 enk=0 in=0 ink=0 Rin=175K
XU3 V1+ V2- v+ v- Vout TL082
XU4 V2+ V2- v+ v- N001 TL082
R7 pp 0 1Meg
C3 pp 0 100p
* .ac dec 1000 1 10meg
.param R = 2.2k
.param tolr = 0.05
.param C = 34.965n
.param tolc = 0.2
* .step param run 0 100 1
.tran 0 .005 0 100
.lib E:\WK\Google Drive - ITBA\ITBA - Me\2020B\Teoria de Circuitos\TP\git\TC-Grupo6\TP3\EJ1\Simulacion\TL082.301
.lib LM833.sub
.backanno
.end
